US05928999
4-Chloro-3-[4-chloro-3-(cyclopropylcarbonylamino)-phenyl]-5-difluoromethoxy-1-methyl-1H-pyrazole (No. Ia.142)
1.0 g (13 mmol) of pyridine and 0.7 g (6.5 mmol) of cyclopropanecarbonyl chloride were added to a solution of 2.0 g (6.5 mmol) of 3-(3-amino-4-chlorophenyl)-4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole in 30 ml of tetrahydrofuran. The solution was stirred at room temperature overnight and at 50° C. for 2 hours, an then concentrated. The residue was taken up in ethyl acetate. The ethyl acetate was washed in succession with cold 1N hydrochloric acid, water and saturated sodium chloride solution, then dried over magnesium sulfate and finally concentrated. Yield: 2.2 g.

reactant | pyridine | 13 mmol, 1.0 g | N1=CC=CC=C1 | C5H5N
reactant | cyclopropanecarbonyl chloride | 6.5 mmol, 0.7 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 3-(3-amino-4-chlorophenyl)-4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole | 6.5 mmol, 2.0 g | NC=1C=C(C=CC1Cl)C1=NN(C(=C1Cl)OC(F)F)C | C11H9Cl2F2N3O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-Chloro-3-[4-chloro-3-(cyclopropylcarbonylamino)-phenyl]-5-difluoromethoxy-1-methyl-1H-pyrazole | ClC=1C(=NN(C1OC(F)F)C)C1=CC(=C(C=C1)Cl)NC(=O)C1CC1 | C15H13Cl2F2N3O2
